US07576215B2
3-BENZYL-4-{3-[(2,6-DIMETHYLBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE
The title compound was prepared from 3-(3-Benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol and 2-Bromomethyl-1,3-dimethyl-benzene following the procedure of Example 478: MS m/z 498; HRMS: calcd for C32H26F3NO+H+, 498.20392; found (ESI, [M+H]+), 498.2038.

reactant | 3-(3-Benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 2-Bromomethyl-1,3-dimethyl-benzene | BrCC1=C(C=CC=C1C)C | C9H11Br
product | 3-BENZYL-4-{3-[(2,6-DIMETHYLBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1=C(C=CC=C1C)C)C(F)(F)F | C32H26F3NO
